US04025636
(a) Methyl 2-methoxy-2-(p-chlorophenyl-5-benzoxazolyl)acetate
Sodium (0.23 g.) was dissolved in dry methanol (60 ml.) and this solution added to ethyl 2-bromo-2-(p-chlorophenyl-5-benzoxazolyl)acetate (2.8 g.). The resulting solution was stirred for 68 hours at room temperature and then evaporated at 20° C. in vacuo to leave a residual oil. The oil was stirred in water (50 ml.) and the pH adjusted to 4 by the addition of glacial acetic acid. The resulting suspension was extracted with ether (3 × 75 ml.). The extracts were combined and washed with saturated sodium bisulphite solution (3 × 25 ml.). After drying (Na2SO4), the ether solution was evaporated to leave a gummy solid (2.15 g.). 1 Gram was purified by chromatography to yield a waxy solid (0.4 g.), which was subsequently recrystallised from carbon tetrachloride and 40°-60° petroleum ether. The resulting solid was the required product, m.p. 100°-105° C.

reactant | Sodium | 0.23 g | [Na] | Na
reactant | ethyl 2-bromo-2-(p-chlorophenyl-5-benzoxazolyl)acetate | 2.8 g | BrC(C(=O)OCC)C=1C=CC2=C(N=C(O2)C2=CC=C(C=C2)Cl)C1 | C17H13BrClNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | Methyl 2-methoxy-2-(p-chlorophenyl-5-benzoxazolyl)acetate | COC(C(=O)OC)C=1C=CC2=C(N=C(O2)C2=CC=C(C=C2)Cl)C1 | C17H14ClNO4
